US05202437
A solution of (2S,4S)-2-(chloroacetylamino)-methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)-pyrrolidine (1.0 g), potassium cyanate (1.3 g) and tetra-n-butylammonium iodide (0.2 g) in acetonitrile (50 ml) was stirred at 60°-80° C. for 8 hours. To a reaction mixture was added ethyl acetate (150 ml) and the organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The resalting residue was chromatographed on silica gel (50 g) eluting with a mixture of chloroform and acetone (9:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-2-(2,5-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (0.82 g).

reactant | (2S,4S)-2-(chloroacetylamino)-methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)-pyrrolidine | 1.0 g | ClCC(=O)N[C@]1(N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C34H32ClN3O5S
reactant | potassium cyanate | 1.3 g | [O-]C#N.[K+]
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | tetra-n-butylammonium iodide | 0.2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2S,4S)-2-(2,5-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 0.82 g | O=C1N(C(CN1)=O)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C35H32N4O6S
